US08247556B2
4-(1,1,2,2,2-Pentafluoroethyl)phenylamine was prepared from 1-Nitro-4-(1,1,2,2,2-pentafluoroethyl)benzene similar to the procedure in preparation of 4-pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine.

reactant | 1-Nitro-4-(1,1,2,2,2-pentafluoroethyl)benzene | [N+](=O)([O-])C1=CC=C(C=C1)C(C(F)(F)F)(F)F | C8H4F5NO2
reactant | 4-pentafluoroethyl-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | FC(C(F)(F)F)(C1=C(C=C(C=C1)N)OCCN1CCCC1)F | C14H17F5N2O
product | 4-(1,1,2,2,2-Pentafluoroethyl)phenylamine | FC(C(F)(F)F)(F)C1=CC=C(C=C1)N | C8H6F5N
